US09169215B2
To a clear colorless solution of 5-amino-1H-pyrazole-4-carbonitrile (161 mg, 1.49 mmol) in methanol (3 mL) were added 4-ethylbenzaldehyde (200 mg, 204 μL, 1.49 mmol) followed by cyclopentyl isonitrile (143 mg, 167 μL, 1.49 mmol) and perchloric acid (29.9 mg, 26.7 μL, 0.298 mmol) at RT under nitrogen atmosphere. The resulting brown solution was stirred for 15 h and during this period (within 5 min) lot of solids were formed. The solids were collected by filtration and washed with methanol. After air drying, 88 mg (18.5% yield) of 3-(cyclopentylamino)-2-(4-ethylphenyl)-1H-imidazo[1,2-b]pyrazole-7-carbonitrile was isolated as an off-white solid. LC/MS calcd. for C19H21N5 (m/e) 319.4, obsd. 320.1 (M+H, ES+).

reactant | 5-amino-1H-pyrazole-4-carbonitrile | 1.49 mmol, 161 mg | NC1=C(C=NN1)C#N | C4H4N4
reactant | 4-ethylbenzaldehyde | 1.49 mmol, 204 μL, 200 mg | C(C)C1=CC=C(C=O)C=C1 | C9H10O
reactant | cyclopentyl isonitrile | 1.49 mmol, 167 μL, 143 mg | C1(CCCC1)[N+]#[C-] | C6H9N
reactant | perchloric acid | 0.298 mmol, 26.7 μL, 29.9 mg | Cl(=O)(=O)(=O)O | ClHO4
solvent | methanol | 3 mL | CO | CH4O
product | 3-(cyclopentylamino)-2-(4-ethylphenyl)-1H-imidazo[1,2-b]pyrazole-7-carbonitrile | 88 mg, 18.5% yield | C1(CCCC1)NC1=C(NC=2N1N=CC2C#N)C2=CC=C(C=C2)CC | C19H21N5
